US09227971B2
Step 1: Preparation of methyl 5-acetamido-4H-1,2,4-triazole-3-carboxylate
A suspension of methyl 5-amino-4H-1,2,4-triazole-3-carboxylate (1.42 g, 10.0 mmol) in acetic anhydride (30 mL) was refluxed for 30 min until a clear solution was formed. The solution was evaporated to dryness and H2O (40 mL) was added. The resulting suspension was stirred at rt overnight. H2O was evaporated to afford the titled compound as a white powder (1.85 g), which was used without further purification.

reactant | methyl 5-amino-4H-1,2,4-triazole-3-carboxylate | 10.0 mmol, 1.42 g | NC=1NC(=NN1)C(=O)OC | C4H6N4O2
reactant | acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 5-acetamido-4H-1,2,4-triazole-3-carboxylate | 1.85 g | C(C)(=O)NC=1NC(=NN1)C(=O)OC | C6H8N4O3
